US07223769B2
In 4 ml of tetrahydrofuran was suspended 0.13 g of sodium hydride (60% in oil), to which 0.5 ml of a solution containing 0.24 g of 3-methyl-2-butanol was added dropwise at 0° C., followed by stirring for 10 minutes. To this was added dropwise 0.5 ml of a solution containing 0.40 g of 4,6-dichloropyrimidine in tetrahydrofuran, followed by stirring at 0° C. for 3 hours. To this was added dropwise 0.5 ml of a solution containing 0.29 g of 2-pentyn-1-ol in tetrahydrofuran and further added 0.15 g of sodium hydride (60% in oil), followed by stirring at room temperature for 4 hours. The reaction mixture was then poured into a saturated aqueous ammonium chloride solution, which was extracted three times with t-butyl methyl ether. The combined organic layers were washed with a saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and then concentrated. The residue was subjected to silica gel column chromatography to give 0.44 g of 4-(1,2-dimethylpropyloxy)-6-(2-pentynyloxy)pyrimidine (the present compound (22)).

reactant | sodium hydride | 0.13 g | [H-].[Na+]
reactant | 3-methyl-2-butanol | 0.24 g | CC(C(C)O)C | C5H12O
reactant | 4,6-dichloropyrimidine | 0.40 g | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | 2-pentyn-1-ol | 0.29 g | C(C#CCC)O | C5H8O
reactant | sodium hydride | 0.15 g | [H-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
product | 4-(1,2-dimethylpropyloxy)-6-(2-pentynyloxy)pyrimidine | 0.44 g | CC(C(C)C)OC1=NC=NC(=C1)OCC#CCC | C14H20N2O2
